US04958019
Synthesis of diphenylmethyl 7-amino-3-[(5-hydroxymethyl -2-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylate
In a suspension of 11.6 g of 7-amino-3-[(5-hydroxymethyl2-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3- cephem-4-carboxylic acid, 70 ml of methanol and 200 ml of methylene chloride was added dropwise, while stirring, diphenyldiazomethane synthesized from 15.7 g of benzophenonehydrazone, 17.3 g of mercuric oxide (yellow) and 130 ml of n-hexane, in 50 ml of methylene chloride solution, and the mixture was stirred at room temperature overnight. After the reaction mixture was condensed, ether was added thereto to crystalize, and crystal was collected by filtration and dried to obtain 15.9 g of the title compound.

reactant | 7-amino-3-[(5-hydroxymethyl2-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3- cephem-4-carboxylic acid | 11.6 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CC(=NC=3N2N=C(N3)C)CO)C(=O)O)C1=O | C15H16N6O4S2
reactant | methanol | 70 ml | CO | CH4O
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | benzophenonehydrazone | 15.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | n-hexane | 130 ml | CCCCCC | C6H14
product | diphenylmethyl 7-amino-3-[(5-hydroxymethyl -2-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylate | 15.9 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CC(=NC=3N2N=C(N3)C)CO)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O | C28H26N6O4S2
